US05210291
The method in which trichlorobenzene and sodium hydrosulfide are reacted at 125° C. under increased pressure in liquid ammonia solvent in the presence of copper acetate catalyst for 10 hours to yield dichlorothiophenol, which is then reacted with sodium monochloroacetate to yield dichlorophenylthioglycolic acid with a yield of 14 to 29% [Kogyo Kagaku Zasshi, 70, 1384 (1967)].

reactant | trichlorobenzene | ClC=1C(=C(C=CC1)Cl)Cl | C6H3Cl3
reactant | sodium hydrosulfide | [SH-].[Na+]
solvent | ammonia | N | H3N
catalyst | copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | dichlorothiophenol | ClC=1C(=C(C=CC1)S)Cl | C6H4Cl2S
